US04224326
1,8-Diaminonaphthalene (15.82 g.; 0.10 mole) and m-trifluoromethylbenzoyl chloride (20.8 g.; 0.10 mole) were reacted in the same procedures as reported in Example 1, yielding 33.3 g. (95.4% yield) of 2-(m-trifluoromethylphenyl)-1H-perimidine hydrochloride, m.p. 280° C. (dec), mass spectrum m/e 312.

reactant | 1,8-Diaminonaphthalene | 0.10 mole, 15.82 g | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | m-trifluoromethylbenzoyl chloride | 0.10 mole, 20.8 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
product | 2-(m-trifluoromethylphenyl)-1H-perimidine hydrochloride | 95.4% yield | Cl.FC(C=1C=C(C=CC1)C=1NC=2C=CC=C3C=CC=C(N1)C23)(F)F | InChI=1S/C18H11F3N2.ClH/c19-18(20,21)13-7-1-6-12(10-13)17-22-14-8-2-4-11-5-3-9-15(23-17)16(11)14;/h1-10H,(H,22,23);1H
